US09422331B2
To a rt solution of tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (93 mg, 187 μmol) in pyridine (374 μl) was added tetrahydro-2H-pyran-4-carbonyl chloride (139 mg, 935 μmol) dropwise. The reaction was stirred at 80° C. for 2 h, then cooled to rt, diluted with EtOAc, washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (69 mg, 61%) as an off-white solid. MS m/z 610 (MH)+.

reactant | tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 187 μmol, 93 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C29H31N5O3
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | 935 μmol, 139 mg | O1CCC(CC1)C(=O)Cl | C6H9ClO2
solvent | pyridine | 374 μl | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 69 mg, 61% | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C35H39N5O5
